US06683077B2
2-Ethylamino-5-methyl-4H-3,1-benzoxazin-4-one
To a stirred solution of 2-(3-ethylureido)-6-methylbenzoic acid (250 mg, 1.125 mmol) and triethylamine (170 mg, 1.69 mmol) in 10 mL CH2Cl2 at room temperature was added EDC (501 mg, 1.69 mmol). After stirring at room temperature for 3 hours, the reaction mixture was diluted with EtOAc and washed sequentially with 1N HCl and sat'd. NaHCO3. The organic fraction was dried (MgSO4), filtered and evaporated under reduced pressure. Silica gel chromatography of the residue (1:1 EtOAc/hexane) afforded 127 mg of product: Anal. Calc'd. for C11H12N2O2.0.25H2O: C, 63.30; H, 6.04; N, 13.42. Found: C, 63.32; H, 5.92; N, 13.10. 1H-NMR (300 MHz, d6-DMSO) δ 1.14 (t, J=7 Hz, 3H), 2.60 (s, 3H), 3.27 (pent, J=7 Hz, 2H), 6.95 (d, J=8 Hz, 1H), 7.02 (d, J=8 Hz, 1H), 7.50 (t, J=8 Hz, 1H), 7.90 (br. t, J=7 Hz, 1H, exchangeable).

reactant | 2-(3-ethylureido)-6-methylbenzoic acid | 1.125 mmol, 250 mg | C(C)NC(NC1=C(C(=O)O)C(=CC=C1)C)=O | C11H14N2O3
reactant | triethylamine | 1.69 mmol, 170 mg | C(C)N(CC)CC | C6H15N
reactant | EDC | 1.69 mmol, 501 mg
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Ethylamino-5-methyl-4H-3,1-benzoxazin-4-one | 127 mg | C(C)NC1=NC2=C(C(O1)=O)C(=CC=C2)C | C11H12N2O2
